US04057573
Analogously to the method described in Example 2, 8.5 g of 5-(p-toluoyl)-6-hydroxy-indane-1-carboxylic acid methyl ester give 5-(p-toluoyl)-6-hydroxy-indane-1-carboxylic acid in the form of yellow crystals of melting point 186-8° C (from ether).

reactant | 5-(p-toluoyl)-6-hydroxy-indane-1-carboxylic acid methyl ester | 8.5 g | COC(=O)C1CCC2=CC(=C(C=C12)O)C(=O)C1=CC=C(C=C1)C | C19H18O4
solvent | ether | CCOCC | C4H10O
product | 5-(p-toluoyl)-6-hydroxy-indane-1-carboxylic acid | C1(=CC=C(C=C1)C(=O)C=1C=C2CCC(C2=CC1O)C(=O)O)C | C18H16O4
